US04694008
(i) 4-[3-(Pyrrolidinomethyl)phenoxy]butyronitrile
3-(Pyrrolidinomethyl)phenol (10 g) was dissolved in DMF (50 ml). The solution was cooled in ice and sodium hydride (2.98 g) added over 45 minutes. After stirring for a further 60 minutes 4-bromobutyronitrile (6.2 ml) was added dropwise. The mixture was then stirred at room temperature for a further 40 hours. Water was added (150 ml) and the pH of the solution adjusted to about 5 with glacial acetic acid. The solution was extracted with ether (3×100 ml). The aqueous layer was adjusted to pH 10 with K2CO3 and re-extracted with chloroform (3×100 ml). The chloroform extracts were washed with water, dried (MgSO4) and evaporated to give a light brown oil (33.49 g). To remove residual DMF this oil was dissolved in ethyl acetate and the solution extracted (×6) with water. The ethyl acetate solution was finally dried (MgSO4) and evaporated to give the product as a light brown oil (11.16 g).

reactant | 3-(Pyrrolidinomethyl)phenol | 10 g | N1(CCCC1)CC=1C=C(C=CC1)O | C11H15NO
reactant | sodium hydride | 2.98 g | [H-].[Na+]
reactant | 4-bromobutyronitrile | 6.2 ml | BrCCCC#N | C4H6BrN
reactant | Water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[3-(Pyrrolidinomethyl)phenoxy]butyronitrile | 33.49 g | N1(CCCC1)CC=1C=C(OCCCC#N)C=CC1 | C15H20N2O
